US07157604B2
A solution of 5-amino-2-butyl-4,6-difluoro-1-indanone (0.25 g, 1.05 mmol) in toluene (5.5 mL) was treated with potassium hydroxide (0.1 g, 40% w/w), N-[4-(trifluoromethyl)benzy]cinchoninium bromide (0.112 g, 0.21 mmol), and propyl vinyl ketone (0.154 g, 1.57 mmol). The resulting solution was stirred under a nitrogen atmosphere for 2 hours. After being diluted with CH2Cl2, the mixture was filtered through a pad of silica gel and rinsed with EtOAc. The filtrate was evaporated under vacuum to afford crude 5-amino-2-butyl-4,6-difluoro-2-(3-oxohexyl)-1-indanone.

reactant | 5-amino-2-butyl-4,6-difluoro-1-indanone | 1.05 mmol, 0.25 g | NC=1C(=C2CC(C(C2=CC1F)=O)CCCC)F | C13H15F2NO
reactant | potassium hydroxide | 0.1 g | [OH-].[K+]
reactant | N-[4-(trifluoromethyl)benzy]cinchoninium bromide | 0.21 mmol, 0.112 g | C=C[C@H]1C[N+]2(CC[C@H]1C[C@@H]2[C@H](C3=CC=NC4=CC=CC=C34)O)CC5=CC=C(C=C5)C(F)(F)F.[Br-]
reactant | propyl vinyl ketone | 1.57 mmol, 0.154 g | C(=C)C(=O)CCC | C6H10O
solvent | toluene | 5.5 mL | C1(=CC=CC=C1)C | C7H8
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | 5-amino-2-butyl-4,6-difluoro-2-(3-oxohexyl)-1-indanone | NC=1C(=C2CC(C(C2=CC1F)=O)(CCC(CCC)=O)CCCC)F | C19H25F2NO2
